US07977477B2
135A. Synthesis of 4,5-dinitro-2-ethoxy-benzoic Acid
To a mixture of potassium nitrate (4.80 g, 47.4 mmol) in concentrated sulphuric acid (20 mL) was added portion-wise at 0° C. 2-ethoxy-4-nitrobenzoic acid (4.00 g, 19.0 mmol). The mixture was stirred at 0° C.-r.t. for 3 h, then poured onto ice (120 mL) and stirred for a further 1 h. The precipitate formed was collected by filtration, washing with water, and dried through azeotrope with toluene to give the title compound (4.28 g) as a white solid. 1H NMR (300 MHz, DMSO-d6) δ 8.50 (s, 1H), 7.95 (s, 1H), 4.35 (q, 2H), 1.35 (t, 3H).

reactant | potassium nitrate | 47.4 mmol, 4.80 g | [N+](=O)([O-])[O-].[K+]
reactant | 2-ethoxy-4-nitrobenzoic acid | 19.0 mmol, 4.00 g | C(C)OC1=C(C(=O)O)C=CC(=C1)[N+](=O)[O-] | C9H9NO5
solvent | sulphuric acid | 20 mL | S(O)(O)(=O)=O | H2O4S
product | 4,5-dinitro-2-ethoxy-benzoic Acid | 4.28 g | [N+](=O)([O-])C1=CC(=C(C(=O)O)C=C1[N+](=O)[O-])OCC | C9H8N2O7
